US05041673
2-(2-Nitroethenyl)naphthalene
A mixture of 2-naphthaldehyde (12 g), nitromethane (13.8 g) and ammonium acetate (5 g) in acetic acid (50 ml) was refluxed for 21/2hours. The brown mixture was poured into ice-water (100 ml) from which a yellow solid separated. Filtration and drying in vacuo afforded the title compound (14.4 g).

reactant | 2-naphthaldehyde | 12 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | nitromethane | 13.8 g | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 5 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Nitroethenyl)naphthalene | 14.4 g | [N+](=O)([O-])C=CC1=CC2=CC=CC=C2C=C1 | C12H9NO2
